US08754229B2
To a 20 mL microwave vial were added methyl 4-amino-6-chloro-5-fluoro-3-methoxypicolinate (0.80 g, 3.41 mmol), (2,3-difluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)phenyl)trimethylsilane (1.28 g, 4.09 mmol), sodium carbonate (Na2CO3; 0.36 g, 3.41 mmol), and PdCl2(PPh3)2 (0.24 g, 0.34 mmol). Subsequently, CH3CN (5.7 mL) and H2O (5.7 mL) were added, and the reaction vial was sealed and heated in a Biotage microwave to 115° C. for 20 min. The reaction mixture was cooled to room temperature and diluted with EtOAc (10 mL). The organic layer was separated and the aqueous phase was extracted with EtOAc (2×2 mL). The organic extracts were combined, dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified using a Teledyne ISCO purification system with a gradient eluent system of EtOAc and hexanes to yield methyl 4-amino-6-(2,3-difluoro-4-(trimethylsilyl)phenyl)-5-fluoro-3-methoxypicolinate (0.99 g, 75%) as a white solid: mp 123-125° C.; 1H NMR (400 MHz, CDCl3) δ 7.32 (ddd, J=7.6, 5.5, 1.1 Hz, 1H), 7.20 (ddd, J=7.7, 4.5, 1.4 Hz, 1H), 4.60 (s, 2H), 3.98 (s, 3H), 3.96 (s, 3H), 0.41-0.28 (m, 9H); 19F NMR (376 MHz, CDCl3) δ −127.39, −127.45, −127.46, −137.48, −137.56, −140.78, −140.85, −140.86, −140.92; ESIMS m/z 383.20 ([M−H]−).

reactant | methyl 4-amino-6-chloro-5-fluoro-3-methoxypicolinate | 3.41 mmol, 0.80 g | NC1=C(C(=NC(=C1F)Cl)C(=O)OC)OC | C8H8ClFN2O3
reactant | (2,3-difluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)phenyl)trimethylsilane | 4.09 mmol, 1.28 g | FC1=C(C=CC(=C1F)B1OC(C(O1)(C)C)(C)C)[Si](C)(C)C | C15H23BF2O2Si
reactant | sodium carbonate | 3.41 mmol, 0.36 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | CH3CN | 5.7 mL | CC#N | C2H3N
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
catalyst | PdCl2(PPh3)2 | 0.34 mmol, 0.24 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | H2O | 5.7 mL | O | H2O
product | methyl 4-amino-6-(2,3-difluoro-4-(trimethylsilyl)phenyl)-5-fluoro-3-methoxypicolinate | 0.99 g, 75% | NC1=C(C(=NC(=C1F)C1=C(C(=C(C=C1)[Si](C)(C)C)F)F)C(=O)OC)OC | C17H19F3N2O3Si
